US05232925
2-(2-Pyrimidinylamino)ethanol
2-Chloropyrimidine (5 g) and ethanolamine (15 ml) were stirred for 2 hours at 140° C. After cooling, the mixture was added to water (200 ml) and continuously extracted with ethyl acetate (500 ml) for 16 hours. The organic extract was dried (MgSO4), filtered and evaporated to dryness. The title compound was obtained as a solid (m.p. 66° C.), following chromatography on silica-gel in 3% methanol in dichloromethane.

reactant | 2-Chloropyrimidine | 5 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | ethanolamine | 15 ml | C(O)CN | C2H7NO
solvent | water | 200 ml | O | H2O
product | 2-(2-Pyrimidinylamino)ethanol | N1=C(N=CC=C1)NCCO | C6H9N3O
